US04861891
A. 2-(3-Fluorophenoxy)nicotinic Acid
Sodium hydride dispersion, 50% by weight (3.05 grams, 63.47 mmol) is placed into a 125 ml round bottom equipped with a stir bar and condenser under nitrogen and is charged with 32 ml of dimethylformamide. 3-Fluorophenol (3.56 grams, 31.73 mmol) is added portionwise over five minutes. During this addition, an exotherm and vigorous gas evolution is observed. The reaction is allowed to stir for five minutes. 2-Chloronicotinic acid (5.00 grams, 31.73 mmol) is added portionwise over five minutes. Gas evolution is observed. When it subsides, the reaction is heated to reflux for 2 hours. The reaction is cooled to room temperature and 300 ml of water is added. The aqueous layer is extracted with diethyl ether (2×200 ml). The aqueous layer is then pH adjusted to acidic with glacial acetic acid and extracted with ethyl acetate (3×150 ml). The organics are combined and washed with water (2×150 ml). The organic layer is dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to yield a yellow oil. The oil is purified by trituration with diethyl ether/hexanes (3/1) to yield 1.42 grams (19.2%) of product as a yellow crystalline solid.

reactant | Sodium hydride | [H-].[Na+]
reactant | dimethylformamide | 32 ml | CN(C=O)C | C3H7NO
reactant | 3-Fluorophenol | 31.73 mmol, 3.56 grams | FC=1C=C(C=CC1)O | C6H5FO
reactant | 2-Chloronicotinic acid | 31.73 mmol, 5.00 grams | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
solvent | water | 300 ml | O | H2O
product | 2-(3-Fluorophenoxy)nicotinic Acid | 1.42 grams, 19.2% | FC=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1 | C12H8FNO3
